US06780996B2
A mixture of sodium hydride (128 mg, 3.2 mmol) and 4-hydroxypyridine (750 mg, 7.89 mmol) in 5 mL of N, N′-dimethylformamide is heated at 100° C. for 1 hour. 4-[(2,4-Dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile (200 mg, 0.51 mmol) is added and the reaction mixture is heated at 130° C. for 2 hours. An additional 21 mg of sodium hydride is added and the reaction mixture is heated at 130° C. for an additional 30 minutes. The reaction mixture is partitioned between ethyl acetate and water. The organic layer is dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by heating with methanol and dichloromethane to provide 130 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-(pyridin-4-yloxy)-3-quinolinecarbonitrile, mp 267-269° C.

reactant | sodium hydride | 3.2 mmol, 128 mg | [H-].[Na+]
reactant | 4-hydroxypyridine | 7.89 mmol, 750 mg | OC1=CC=NC=C1 | C5H5NO
reactant | 4-[(2,4-Dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile | 0.51 mmol, 200 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C18H12Cl2FN3O2
reactant | sodium hydride | 21 mg | [H-].[Na+]
solvent | N, N′-dimethylformamide | 5 mL | CN(C)C=O | C3H7NO
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-(pyridin-4-yloxy)-3-quinolinecarbonitrile | 130 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)OC1=CC=NC=C1)C#N | C23H16Cl2N4O3
